US05466689
Trans-4,6,6a,8,9,10a-hexahydro-10a-methyl-1-(2,4,6-triisopropylphenylsulfonyl)-7H-indolo[3,4-gh][1.4]benzoxazine
To a solution of trans-4,6,6a,7,9,10a-hexahydro-10a-methyl-1-(2,4,6-triisopropylphenylsulfonyl)-indolo[3,4-gh][1.4]benzoxazin-8-one (220 mg, 0.43 mmol) in THF (10 ml) was added, while stirring under ice-cooling, LAH (3 equivalents). The mixture was heated for 3 hours under reflux. After completion of the reaction, ethanol was added to the reaction mixture to inactivate the excess amount of LAH. The reaction mixture was added to an ice-cooled saturated aqueous solution of Na2SO4, followed by extraction with ethyl acetate. The extract solution was washed with an aqueous saline solution, followed by drying (anhydrous Na2SO4). The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with n-hexane-ethyl acetate (1:5), to afford 106 mg (50%) of the title compound as a syrupy product.

reactant | trans-4,6,6a,7,9,10a-hexahydro-10a-methyl-1-(2,4,6-triisopropylphenylsulfonyl)-indolo[3,4-gh][1.4]benzoxazin-8-one | 0.43 mmol, 220 mg | C[C@@]12[C@H](NC(CO1)=O)CC=1C3=C2C(=CC=C3NC1)S(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C29H36N2O4S
reactant | LAH | 3 equivalents | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethanol | C(C)O | C2H6O
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Trans-4,6,6a,8,9,10a-hexahydro-10a-methyl-1-(2,4,6-triisopropylphenylsulfonyl)-7H-indolo[3,4-gh][1.4]benzoxazine | 106 mg, 50% | C[C@@]12[C@H](NCCO1)CC=1C3=C2C(=CC=C3NC1)S(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C29H38N2O3S
